US07659540B2
b) Synthesis of bis(4-bromophenyl)phenylphosphine oxide (Monomer M7)
10.05 g (24 mmol) of bis(4-bromophenyl)phenylphosphine were dissolved in 200 ml of ethyl acetate in a 500 ml four-necked flask with internal thermometer, mechanical stirrer, reflux condenser and dropping funnel and cooled to an internal temperature of 5° C. A solution of 2.25 ml (26.4 mmol) of H2O2 (35%) in 17.5 ml of water was added dropwise over the course of 30 min., and the mixture was stirred at room temperature for a further 12 h. 25 ml of saturated sodium sulfite solution were subsequently added, the organic phase was separated off, washed twice with saturated sodium sulfite solution and dried over sodium sulfate. The solvent was removed under reduced pressure. The purification was carried out firstly by column chromatography on silica using a solvent mixture of initially hexane:ethyl acetate 2:1 to hexane:ethyl acetate 1:1. Further purification was carried out by recrystallisation from heptane/toluene, giving 6.5 g of product in a purity of 99.7% (according to HPLC). 1H-NMR (500 MHz, CDCl3): [ppm] 7.46-7.66 (m). 31P-NMR (CDCl3): [ppm] 28.40.

reactant | bis(4-bromophenyl)phenylphosphine | 24 mmol, 10.05 g | BrC1=CC=C(C=C1)P(C1=CC=CC=C1)C1=CC=C(C=C1)Br | C18H13Br2P
reactant | H2O2 | 26.4 mmol, 2.25 ml | OO | H2O2
reactant | sodium sulfite | 25 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 17.5 ml | O | H2O
product | bis(4-bromophenyl)phenylphosphine oxide | 6.5 g | BrC1=CC=C(C=C1)P(C1=CC=CC=C1)(C1=CC=C(C=C1)Br)=O | C18H13Br2OP
